US07745462B2
1,3-Dimethyl-1H-indene-2-carboxylic acid
Concentrated sulphuric acid (15 ml) is added to methyl 2-acetyl-3-phenylbutyrate (2.75 g, 12.5 mmol) maintaining the temperature below 30° C. The reaction is stirred at ambient temperature for 5 hours, poured on to ice and extracted with EtOAc. The combined organic extracts are evaporated and the residue is diluted with water and the pH adjusted to 8 with saturated NaHCO3. After washing with EtOAc, the aqueous phase is acidified with concentrated HCl and extracted with EtOAc. The combined organic phases are washed with brine, dried (MgSO4) and evaporated to afford the title compound, MH+189.

reactant | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-acetyl-3-phenylbutyrate | 12.5 mmol, 2.75 g | C(C)(=O)C(C(=O)OC)C(C)C1=CC=CC=C1 | C13H16O3
product | 1,3-Dimethyl-1H-indene-2-carboxylic acid | CC1C(=C(C2=CC=CC=C12)C)C(=O)O | C12H12O2
